US06809199B2
Step D: 7-Bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3,4-dihydro-1,6-naphthyridin-2(1H)-one
To a suspension of 7.54 g of 3-[6-bromo-2-(2-chlorophenyl)pyridin-3-yl]-N-(2,6-dichlorophenyl)propanamide in 100 mL of DMF was added CuI (3.82 g) and powdered, dried K2CO3 (3.70 g). The mixture was heated to 155° C. for 30 min, then cooled and diluted with 250 mL of half-saturated NaHCO3 and 100 mL of EtOAc. The phases were separated and the aqueous phase was extracted 2×50 mL of EtOAc. The combined organics were washed with brine, dried (Na2SO4), and concentrated. The reside was purified by flash chromatography on a Biotage 65M column, eluting with a gradient system of 99:1 CH2Cl2-acetone to 97:3 CH2Cl2-acetone to yield the title compound as an off-white solid. Mass spectrum (ESI) 483 (M+1). 1H NMR (500 MHz, CDCl3): δ 2.72-2.92 (m, 3H); 2.96-3.06 (m, 1H); 6.37 (s, 1H); 7.39-7.54 (m. 2H); 7.56-7.60 (m, 2H).

reactant | 3-[6-bromo-2-(2-chlorophenyl)pyridin-3-yl]-N-(2,6-dichlorophenyl)propanamide | 7.54 g | BrC1=CC=C(C(=N1)C1=C(C=CC=C1)Cl)CCC(=O)NC1=C(C=CC=C1Cl)Cl | C20H14BrCl3N2O
reactant | K2CO3 | 3.70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 3.82 g | [Cu]I
product | 7-Bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3,4-dihydro-1,6-naphthyridin-2(1H)-one | BrC1=NC(=C2CCC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C20H12BrCl3N2O
